US05264573
1) Preparation of 2-chlorohypoxanthine-hydrochloride-monohydrate
230 g (3.24 mol) of chlorine are introduced into a suspension of 168.2 g (1.0 mol) of 2-thioxanthine in 68 liters of conc. hydrochloric acid in the course of about 5 hours at 3°-5° C. Then about 1 liter of hydrochloric acid is distilled off in a water jet vacuum, the residue is cooled to 0°to +5° C., suction filtered and washed with 0.5 liters of saturated, ice-cold brine and finally with 300 ml of isopropanol. After drying at 50° C. over a period of about 12 hours, 93 g (85.7% of theory) of colourless crystal powder are obtained. By preparing the free base and again converting it into the hydrochloride the title compound is obtained in analytically pure form. Elemental analysis corresponds to the composition C5H4Cl2N4O×H2O.

reactant | chlorine | 3.24 mol, 230 g | ClCl | Cl2
reactant | 2-thioxanthine | 1.0 mol, 168.2 g | N1C(=S)NC=2N=CNC2C1=O | C5H4N4OS
solvent | hydrochloric acid | 68 liters | Cl | ClH
product | 2-chlorohypoxanthine-hydrochloride-monohydrate | O.Cl.ClC=1NC(C=2NC=NC2N1)=O | InChI=1S/C5H3ClN4O.ClH.H2O/c6-5-9-3-2(4(11)10-5)7-1-8-3;;/h1H,(H2,7,8,9,10,11);1H;1H2
